US07772243B2
The crude (3-Chloro-4-fluoro-phenyl )-[7-(2,2-difluoro-ethoxy)-6-nitro-quinazolin-4-yl]-amine was dissolved in THF and reduced using Raney nickel catalyst to yield N4-(3-Chloro-4-fluoro-phenyl)-7-(2,2-difluoro-ethoxy)-quinazoline-4,6-diamine.

reactant | (3-Chloro-4-fluoro-phenyl )-[7-(2,2-difluoro-ethoxy)-6-nitro-quinazolin-4-yl]-amine | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCC(F)F | C16H10ClF3N4O3
solvent | THF | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | N4-(3-Chloro-4-fluoro-phenyl)-7-(2,2-difluoro-ethoxy)-quinazoline-4,6-diamine | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)N)OCC(F)F | C16H12ClF3N4O
